US07790900B2
In a 10 mL Schlenk-flask, 6.8 mg of copper (I) tert-butoxide and 55 μmol of (S)—(R)-JOSIPHOS were dissolved in 5 ml of toluene. After stirring for 30 minutes at room temperature to give an asymmetric copper complex. This solution to the amount containing 10 μmol of the asymmetric copper complex were mixed with 4.9 ml of toluene, and 6 μL (0.1 mmol) of poly(methylhydrosiloxane) (15-40 mPas (20° C.), d=1.004 g/mL, nD20=1.398, produced by Fluka) were added thereto. Further, 185 μL of (1.5 mmol) of phenylsilane and 27 μL (1.5 mmol) of water were added. After stirring for 5 minutes, 1 mmol of (E)-1-nitro-2-(pyridin-2-yl)-1-propene was added, and the mixture was further stirred for 24 hours at room temperature. Water was added to the reaction mixture and the product was extracted with diethyl ether (30 mL×2). After drying over sodium sulfate, the solvent was evaporated. The residue was purified by flash chromatography (silica gel, hexane/ethyl acetate) to provide optically active 1-nitro-2-(pyridin-2-yl)propane.

reactant | phenylsilane | 1.5 mmol, 185 μL | C1(=CC=CC=C1)[SiH3] | C6H8Si
reactant | water | 1.5 mmol, 27 μL | O | H2O
reactant | (E)-1-nitro-2-(pyridin-2-yl)-1-propene | 1 mmol | [N+](=O)([O-])\C=C(/C)\C1=NC=CC=C1 | C8H8N2O2
solvent | copper (I) tert-butoxide | 6.8 mg | CC(C)([O-])C.[Cu+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | (S)—(R)-JOSIPHOS | 55 μmol | C[C@@H]([C]1[CH][CH][CH][C]1P(C2=CC=CC=C2)C3=CC=CC=C3)P(C4CCCCC4)C5CCCCC5.[CH]1[CH][CH][CH][CH]1.[Fe]
solvent | toluene | 4.9 ml | C1(=CC=CC=C1)C | C7H8
product | 1-nitro-2-(pyridin-2-yl)propane | Yield: 55% | [N+](=O)([O-])CC(C)C1=NC=CC=C1 | C8H10N2O2
